US07915267B2
To a solution of 5-methyl-2-nitrobenzamide (15.0 g, 83.3 mmol) in methanol (300 mL) was added 10% palladium carbon (2.50 g), and the mixture was stirred at room temperature for 12 hr under hydrogen atmosphere (1 atm). The insoluble material was filtered off, and the filtrate was concentrated to give 2-amino-5-methylbenzamide as a white powder (12.4 g, 99%).

reactant | 5-methyl-2-nitrobenzamide | 83.3 mmol, 15.0 g | CC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C8H8N2O3
solvent | methanol | 300 mL | CO | CH4O
catalyst | palladium carbon | 2.50 g | [C].[Pd]
product | 2-amino-5-methylbenzamide | 12.4 g, 99% | NC1=C(C(=O)N)C=C(C=C1)C | C8H10N2O
